US06969729B2
2-(6,7-dichloroisatin-1-yl)acetic acid (2c).
A solution of 5,6-dichloroisatin (1.0 g, 4.65 mmol) in DMF (20 ml) was cooled in an ice-bath. Sodium hydride (5.11 mmol, 0.20 g 60% dispersion in mineral oil) was added and the mixture was stirred for 20 min. Ethyl 2-bromoacetate (0.37 ml, 5.11 mmol) was added and stirring was continued for 2 hours. The resulting mixture was poured into diluted hydrochloric acid (200 ml, 4M), heated to reflux for 2 hours, filtered, cooled and extracted with ethyl acetate. The organic extract was dried over magnesium sulphate and evaporated to dryness to leave the desired product (0.85 g, 67%).

reactant | 5,6-dichloroisatin | 4.65 mmol, 1.0 g | ClC=1C=C2C(C(NC2=CC1Cl)=O)=O | C8H3Cl2NO2
reactant | Sodium hydride | 5.11 mmol, 0.20 g | [H-].[Na+]
reactant | Ethyl 2-bromoacetate | 5.11 mmol, 0.37 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | 4M, 200 ml | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(6,7-dichloroisatin-1-yl)acetic acid | 0.85 g, 67% | ClC1=CC=C2C(C(N(C2=C1Cl)CC(=O)O)=O)=O | C10H5Cl2NO4
